US08431573B2
4-[(2-Methoxyethyl)amino]-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.38 mmol) of 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are reacted with 285 mg (3.80 mmol) of 2-methoxyethylamine to give 76 mg (69% of theory) of the title compound.

reactant | 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 0.38 mmol, 100 mg | CSC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C11H9N3OS2
reactant | 2-methoxyethylamine | 3.80 mmol, 285 mg | COCCN | C3H9NO
product | 4-[(2-Methoxyethyl)amino]-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | COCCNC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C13H14N4O2S
